US06878468B2
Synthesis of Bis(4-methoxyphenyl)phenylamine
9 g of aniline and 9 g of 4-methoxy-bromobenzene was dissolved in toluene (250 mL). NaO-t-Bu (5.3 g), Pd2(dba)3 (0.4 g), and P(t-Bu)3 (0.5 g) were added to the above solution at room temperature. The reaction mixture was stirred at 100° C. for 12 hours under N2. After cooling to room temperature, the mixture was quenched by adding aqueous ammonia (300 mL). An organic layer was separated from the reactant solution using methylene chloride and dried using magnesium sulfate. Then, methylene chloride was removed under reduced pressure and recrystallized using methylene chloride and hexane, yielding 65% of a white solid. Data of NMR spectra and elemental analysis confirmed that the product had the same structure as the compound (10) in the reaction scheme 5.

reactant | aniline | 9 g | NC1=CC=CC=C1 | C6H7N
reactant | 4-methoxy-bromobenzene | 9 g | COC1=CC=C(C=C1)Br | C7H7BrO
reactant | NaO-t-Bu | 5.3 g | O([Na])C(C)(C)C
reactant | P(t-Bu)3 | 0.5 g | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.4 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Bis(4-methoxyphenyl)phenylamine | 65% | COC1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C20H19NO2
